US06770785B1
Synthesis of 2,6di-tert-butyl4-{[(4-phenylamino-phenylamino)-phenol
4-Bromomethyl-2,6-di-tert-butyl-phenol (2.42 g, 0.008 mole) was dissolved in 50 mL of dry tetrahydrofuran . In a separate conical flask N-Phenyl-benzene-1,4-diamine (2.93 g, 0.016 mole) was dissolved in 25 mL of tetrahydrofuran and solution was transferred to a cylindrical funnel with pressure equalizing tube. Three-necked round-bottomed flask containing solution of 4-Bromomethyl-2,6-di-tert-butyl-phenol was kept in oil-bath at 85° C. Solution in the flask was continuously stirred with the help of magnetic stirrer. N-Phenyl-benzene-1,4-diamine solution was added drop-by-drop, from funnel to the flask in acidic medium for a span of 4-5 hours till all the solution was poured out. The reaction was terminated after that and the final reaction mixture was allowed to attain room temperature. Product was separated by solvent evaporation. The product was purified using silica gel column chromatography. Product was identified by 1H-NMR. The yield of 2,6-di-tert-butyl-4-[(4-phenylamino-phenylamino)phenol is 2.044 g (63%).

reactant | 4-Bromomethyl-2,6-di-tert-butyl-phenol | 0.008 mole, 2.42 g | BrCC1=CC(=C(C(=C1)C(C)(C)C)O)C(C)(C)C | C15H23BrO
reactant | N-Phenyl-benzene-1,4-diamine | 0.016 mole, 2.93 g | C1(=CC=CC=C1)NC1=CC=C(C=C1)N | C12H12N2
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 25 mL | O1CCCC1 | C4H8O
product | (4-phenylamino-phenylamino)-phenol | C1(=CC=CC=C1)NC1=CC=C(C=C1)NC1=C(C=CC=C1)O | C18H16N2O
